US07592373B2
3.32.a. trifluoromethanesulfonic acid 3-chlorobiphenyl-4-yl ester
6.7 mL (40.32 mmol) of trifluoromethanesulfonic acid anhydride dissolved in 5 mL dichloromethane is added dropwise between −10° C. to −5° C. to a solution of 7.5 g (36.65 mmol) of 3-chlorobiphenyl-4-ol and 6.1 mL (44 mmol) of triethylamine in 100 mL of dichloromethane. Then the mixture is stirred for 30 minutes. The reaction solution is then extracted with water, the organic phase is separated off and filtered through an Alox frit. The filtrate is concentrated by evaporation. Yield: 12 g (97% of theory); C13H8ClF3O3S (M=336.72); calc.: molecular ion peak (M+H)+: 336/338 (Cl); found: molecular ion peak (M+H)+: 336/338 (Cl); Rf value: 0.7 (silica gel, petroleum ether/ethyl acetate (5:1)).

reactant | trifluoromethanesulfonic acid anhydride | 40.32 mmol, 6.7 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 3-chlorobiphenyl-4-ol | 36.65 mmol, 7.5 g | ClC=1C=C(C=CC1O)C1=CC=CC=C1 | C12H9ClO
reactant | triethylamine | 44 mmol, 6.1 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | trifluoromethanesulfonic acid 3-chlorobiphenyl-4-yl ester | ClC=1C=C(C=CC1OS(=O)(=O)C(F)(F)F)C1=CC=CC=C1 | C13H8ClF3O3S
